US04748276
Rylski, F. Gajewski and Z. Kamonski, Acta Pol. Pharm. 31, 577-582 (1974), show two methods for the conversion of N,N-bis(2-chloroethyl)benzylamine by reaction with phenylacetonitrile to produce 1-benzyl-4-cyano4-phenylpiperidine hydrochloride, the first method in a sodium hydroxide-toluene system resulting in a 63% yield of product melting at 253°-254° C. and the second method in a catalytic process using benzyltriethylammonium chloride in 50% aqueous sodium hydroxide resulting in a 61% yield of product melting at 254°-255° C. (Eisleb, supra, 259°-260° C.).

reactant | N,N-bis(2-chloroethyl)benzylamine | ClCCN(CCCl)CC1=CC=CC=C1 | C11H15Cl2N
reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
product | 1-benzyl-4-cyano4-phenylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)C#N | InChI=1S/C19H20N2.ClH/c20-16-19(18-9-5-2-6-10-18)11-13-21(14-12-19)15-17-7-3-1-4-8-17;/h1-10H,11-15H2;1H
